US07524965B2
To a 500 mL round-bottom flask was added biphenyl-2-ylcarbamic acid 1-[2-(4-[1,3]dioxolan-2-yl-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester (15 g, 27.6 mmol) and acetonitrile (150 mL) to form a slurry. Aqueous 2 M hydrochloric acid (75 mL) was added and the resulting mixture was stirred at 30° C. for 1 hour. The mixture was then cooled to room temperature and ethyl acetate (150 mL) was added. Aqueous 2 M sodium hydroxide (75 mL) was added, the pH was checked and then additional 2 M sodium hydroxide was added until the pH of the solution was in the range of 9 to 10. The layers were separated and the organic layer was washed with diluted brine (75 mL; 1:1 brine/water), dried over anhydrous sodium sulfate and the solvent removed on a rotary evaporator to give biphenyl-2-ylcarbamic acid 1-[2-(4-formyl-2,5-dimethylphenyl-carbamoyl)ethyl]piperidin-4-yl ester (12.5 g, about 98% purity). If desired, the purity of this intermediate can be increased by forming a slurry with ethanol (3 volumes of ethanol), heating the slurry to 80° C., and then cooling slowly to room temperature and isolating by filtration.

reactant | biphenyl-2-ylcarbamic acid 1-[2-(4-[1,3]dioxolan-2-yl-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester | 27.6 mmol, 15 g | O1C(OCC1)C1=CC(=C(C=C1C)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C32H37N3O5
reactant | acetonitrile | 150 mL | C(C)#N | C2H3N
reactant | hydrochloric acid | 2 M, 75 mL | Cl | ClH
reactant | sodium hydroxide | 2 M, 75 mL | [OH-].[Na+]
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | biphenyl-2-ylcarbamic acid 1-[2-(4-formyl-2,5-dimethylphenyl-carbamoyl)ethyl]piperidin-4-yl ester | 12.5 g, about 98% | C(=O)C1=CC(=C(C=C1C)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C30H33N3O4
